US05663165
(a) Ethyl 2-aminobutyrate hydrochloride
A slurry of 2-aminobutyric acid (100 g, Aldrich) in absolute ethanol (300 ml) was stirred under nitrogen at 0° C. and thionyl chloride (120.79 g) was added dropwise. The reaction was stirred overnight at 0° C. and then gradually warmed to room temperature. The resulting white slurry was heated under reflux for 3 hours, left to cool for 10 minutes, then poured into chilled diethyl ether (600 ml) with hand stirring. The suspension was filtered and the solid product dried to give the desired product (150 g) as a white solid. 1H NMR consistent with proposed structure.

reactant | 2-aminobutyric acid | 100 g | NC(C(=O)O)CC | C4H9NO2
reactant | thionyl chloride | 120.79 g | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl 2-aminobutyrate hydrochloride | 150 g | Cl.NC(C(=O)OCC)CC | InChI=1S/C6H13NO2.ClH/c1-3-5(7)6(8)9-4-2;/h5H,3-4,7H2,1-2H3;1H
